US06255318B1
Compound #60 Thiazolo[5,4-c]pyridine-2-carboxylic acid-2-isopropoxybenzylamide
To a solution of thiazolo [5,4-c]pyridine-2-carboxylic acid ethyl ester (34 mg, 0.16 mmol) and 2-isopropoxy benzyl amine (67 mg, 0.41 mmol)in dichloromethane(1.7 mL) was added a solution of trimethylaluminum in hexane(0.203 mL, 2.0 M., 0.41 mmol). The solution was then stirred for 5 hours at room temperature. After usual work-up, the product was purified by flash chromatography (CH2Cl2/EtOAc 2:1) to give 30 mg of the thiazolo derivative.

reactant | thiazolo [5,4-c]pyridine-2-carboxylic acid ethyl ester | 0.16 mmol, 34 mg | C(C)OC(=O)C=1SC=2C=NC=CC2N1 | C9H8N2O2S
reactant | 2-isopropoxy benzyl amine | 0.41 mmol, 67 mg | C(C)(C)OC1=C(CN)C=CC=C1 | C10H15NO
reactant | trimethylaluminum | C[Al](C)C
reactant | hexane | 0.41 mmol, 2.0 M, 0.203 mL | CCCCCC | C6H14
solvent | dichloromethane | 1.7 mL | ClCCl | CH2Cl2
product | Thiazolo[5,4-c]pyridine-2-carboxylic acid-2-isopropoxybenzylamide | C(C)(C)OC1=C(CNC(=O)C=2SC=3C=NC=CC3N2)C=CC=C1 | C17H17N3O2S
